US07514566B2
To a 100 mL round-bottomed flask was added 2-bromo-1-cyclopropylethanone (7.9 g, 48 mmol), EtOH (70 mL, 1202 mmol), and thiourea (2.6 mL, 48 mmol). The solution was stirred at reflux for 6 hours. The reaction solution was cooled and concentrated under reduced pressure. The reaction mixture was diluted with water (200 mL), neutralized with NaHCO3, and extracted with EtOAc (3×100 mL). The organic extract was washed with saturated sodium chloride (1×100 mL), water (1×100 mL), dried over Na2SO4, filtered and concentrated in vacuo to give 4-cyclopropylthiazol-2-amine. The crude product was adsorbed onto a plug of silica gel and chromatographed through a Redi-Sep® pre-packed silica gel column (40 g), eluting with a gradient (5%→50% n 2 M NH3.MeOH in DCM), to provide 4-cyclopropylthiazol-2-amine (3.2 g, 48% yield), m/z (%): 141.3 (100%, M++H).

reactant | 2-bromo-1-cyclopropylethanone | 48 mmol, 7.9 g | BrCC(=O)C1CC1 | C5H7BrO
reactant | EtOH | 1202 mmol, 70 mL | CCO | C2H6O
reactant | thiourea | 48 mmol, 2.6 mL | NC(=S)N | CH4N2S
product | 4-cyclopropylthiazol-2-amine | C1(CC1)C=1N=C(SC1)N | C6H8N2S
